US04496734
Part B. Preparation of 2-Aminomethyl-6-methoxypyridine
The crude product, 2-acetamidomethyl-6-methoxypyridine from Part A, was combined with 10 ml of 6N hydrochloric acid, and the resulting mixture was heated at its reflux temperature for about 16 hours. The mixture was evaporated to provide a tan solid residue. The product was determined by infrared and nuclear magnetic resonance spectral analyses to be a mixture of 2-aminomethyl-6-methoxypyridine hydrochloride and 6-aminomethyl-2(1H)-pyridone hydrochloride.

reactant | 2-acetamidomethyl-6-methoxypyridine | C(C)(=O)NCC1=NC(=CC=C1)OC | C9H12N2O2
reactant | 2-aminomethyl-6-methoxypyridine hydrochloride | Cl.NCC1=NC(=CC=C1)OC
reactant | 6-aminomethyl-2(1H)-pyridone hydrochloride | Cl.NCC1=CC=CC(N1)=O
solvent | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 2-Aminomethyl-6-methoxypyridine | NCC1=NC(=CC=C1)OC | C7H10N2O
